US06268387B1
3-Phenoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 1 Step A using 3-phenoxybenzoic acid (1.2 g, 5.5 mmol), oxalyl chloride (0.55 mL, 6.3 mmol), and aniline (1.0 g, 10.7 mmol) to afford the product (1.5 g); m.p. 111-112° C. after recrystallization from ethanol.

reactant | 3-phenoxybenzoic acid | 5.5 mmol, 1.2 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | oxalyl chloride | 6.3 mmol, 0.55 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aniline | 10.7 mmol, 1.0 g | NC1=CC=CC=C1 | C6H7N
product | 3-Phenoxy-N-phenyl-benzamide | 1.5 g | O(C1=CC=CC=C1)C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C19H15NO2
